US05246948
Synthesis of 4-[3-(pivaloylamino)propylthio]pyridine hydrochloride
To a solution of 1.00 g (4.15 mmol) of 4-(3-aminopropylthio)pyridine dihydrochloride and 2.77 ml (19.8 mmol) of triethylamine in 40 ml of methylene chloride was added 0.61 ml (4.96 mmol) of pivaloyl chloride under ice-cooling with stirring and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed with an aqueous saturated sodium bicarbonate solution and water and dried. The solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate) to obtain 1.01 g of the desired compound (free base) (96.4%, yellow oil).

reactant | 4-(3-aminopropylthio)pyridine dihydrochloride | 4.15 mmol, 1.00 g | Cl.Cl.NCCCSC1=CC=NC=C1
reactant | triethylamine | 19.8 mmol, 2.77 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 4.96 mmol, 0.61 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(pivaloylamino)propylthio]pyridine hydrochloride | 1.01 g, 96.4% | Cl.C(C(C)(C)C)(=O)NCCCSC1=CC=NC=C1 | InChI=1S/C13H20N2OS.ClH/c1-13(2,3)12(16)15-7-4-10-17-11-5-8-14-9-6-11;/h5-6,8-9H,4,7,10H2,1-3H3,(H,15,16);1H
